US04046907
1,1-Dicyano-2-methylamino-2-[2-(3-isoxazolylmethylthio)-ethylamino]ethylene
By the procedure of Example 1(ii), reacting 3-[(2-aminoethyl)thiomethyl]isoxazole with 1,1-dicyano-2-methylthio-2-methylaminoethylene gives the title compound.

reactant | 3-[(2-aminoethyl)thiomethyl]isoxazole | NCCSCC1=NOC=C1 | C6H10N2OS
reactant | 1,1-dicyano-2-methylthio-2-methylaminoethylene | C(#N)C(=C(NC)SC)C#N | C6H7N3S
product | 1,1-Dicyano-2-methylamino-2-[2-(3-isoxazolylmethylthio)-ethylamino]ethylene | C(#N)C(=C(NCCSCC1=NOC=C1)NC)C#N | C11H13N5OS
